### PR TITLE
feat: generalize StieltjesFunction.measurable_measure

### PR DESCRIPTION
**Pull request by CoolRmal**
A generalization of [StieltjesFunction.measurable_measure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/Kernel/Disintegration/MeasurableStieltjes.html#StieltjesFunction.measurable_measure) is proved, and I only assume that `∀ i, Measurable fun ω ↦ f ω i`.

Here's an outline of the proof:
1. We first prove that [StieltjesFunction.measurable_measure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/Kernel/Disintegration/MeasurableStieltjes.html#StieltjesFunction.measurable_measure) is true if `∀ ω, IsFiniteMeasure (f ω).measure`. If `(f ω).measure` is finite, then necessarily `fun ω => (f ω).measure univ = ⨅ i, f ω i - ⨆ i, f ω i` is measurable, so it is natural to assume that the supremum and infimum are measurable functions.
2. As [StieltjesFunction.measure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Stieltjes.html#StieltjesFunction.measure) is defined for types `ι` such that `[CompactIccSpace ι] [SecondCountableTopology ι]` hold for `ι`. We can write `ι` as an increasing union of `Ioc` intervals (this is not true if the `botSet` is nonempty, but the `botSet` has zero measure). We can then express `(f ω).measure` as the supremum of countably many finite measures. Finally, we can apply `Measurable.iSup` and the result above.

Update on Apr 17:

Add a measurable space structure on `VectorMeasure ι E` and prove lemma [13.7](https://remydegenne.github.io/brownian-motion/blueprint/sect0007.html#lem:BoundedVariationOn.measurable_vectorMeasure). The section of StronglyMeasurableLim are helper lemmas for `BoundedVariationOn.measurable_vectorMeasure_of_stronglyMeasurable`.

This proof is mostly done by codex (of course I golfed and reviewed).

Closes #419

### CODE REVIEW

File: BrownianMotion/StochasticIntegral/MonotoneProcess.lean [hunk 1]
```diff
@@ -0,0 +1,332 @@
...
+
+section StieltjesKernel
+
+def StieltjesFunction.restrict (f : StieltjesFunction ι) (s : Set ι) : StieltjesFunction s where
+  toFun x := f x
+  mono' x y hxy := f.mono hxy
+  right_continuous' x :=
+    (f.right_continuous x).comp continuousAt_subtype_val.continuousWithinAt fun i => by simp
+
+lemma StieltjesFunction.restrict_Ioc_BddAbove (f : StieltjesFunction ι) :
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/MonotoneProcess.lean]:
```suggestion
lemma StieltjesFunction.bddAbove_restrict_Ioc (f : StieltjesFunction ι) :
```

File: BrownianMotion/StochasticIntegral/MonotoneProcess.lean [hunk 2]
```diff
@@ -0,0 +1,332 @@
...
+    BddAbove (range (f.restrict (Ioc a b))) :=
+  ⟨f b, fun y ⟨c, hc⟩ => hc ▸ by simp [restrict, f.mono c.2.2]⟩
+
+lemma StieltjesFunction.restrict_Ioc_BddBelow (f : StieltjesFunction ι) :
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/MonotoneProcess.lean]:
```suggestion
lemma StieltjesFunction.bddBelow_restrict_Ioc (f : StieltjesFunction ι) :
```

File: BrownianMotion/StochasticIntegral/MonotoneProcess.lean [hunk 3]
```diff
@@ -0,0 +1,332 @@
...
+    BddBelow (range (f.restrict (Ioc a b))) :=
+  ⟨f a, fun y ⟨c, hc⟩ => hc ▸ by simp [restrict, f.mono c.2.1.le]⟩
+
+lemma StieltjesFunction.restrict_Ioc_iSup (f : StieltjesFunction ι) (hab : a < b) :
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/MonotoneProcess.lean]:
```suggestion
lemma StieltjesFunction.iSup_restrict_Ioc (f : StieltjesFunction ι) (hab : a < b) :
```

File: BrownianMotion/StochasticIntegral/MonotoneProcess.lean [hunk 4]
```diff
@@ -0,0 +1,332 @@
...
+    f b = ⨆ i, (f.restrict (Ioc a b)) i := by
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/MonotoneProcess.lean]: Reverse the equality to have it go from a complicated expression on the left to simple on the right?

File: BrownianMotion/StochasticIntegral/MonotoneProcess.lean [hunk 5]
```diff
@@ -0,0 +1,332 @@
...
+  have := nonempty_Ioc_subtype hab
+  refine le_antisymm ?_ (ciSup_le fun i => by simp [restrict, f.mono i.2.2])
+  have : f b = (f.restrict (Ioc a b)) (⟨b, ⟨hab, refl b⟩⟩ : Ioc a b) := by simp [restrict]
+  grw [this, le_ciSup f.restrict_Ioc_BddAbove]
+
+variable [OrderTopology ι] [DenselyOrdered ι]
+
+lemma StieltjesFunction.restrict_Ioc_iInf (f : StieltjesFunction ι) (hab : a < b) :
+    f a = ⨅ i, (f.restrict (Ioc a b)) i := by
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/MonotoneProcess.lean]:
```suggestion
lemma StieltjesFunction.iInf_restrict_Ioc (f : StieltjesFunction ι) (hab : a < b) :
    ⨅ i, (f.restrict (Ioc a b)) i = f a := by
```

File: BrownianMotion/StochasticIntegral/MonotoneProcess.lean [hunk 6]
```diff
@@ -0,0 +1,332 @@
...
+      refine tendsto_nhdsWithin_iff.2 ⟨?_, .of_forall (by grind)⟩
+      apply tendsto_atBot_isGLB (Subtype.mono_coe _)
+      simp [Subtype.range_coe_subtype, -mem_Ioc, isGLB_Ioc hab]
+    simpa [restrict] using (f.right_continuous a).tendsto.comp this
+  exact tendsto_nhds_unique this (tendsto_atBot_ciInf (f.restrict (Ioc a b)).mono
+    f.restrict_Ioc_BddBelow)
+
+variable [MeasurableSpace ι] [BorelSpace ι] [CompactIccSpace ι] [SecondCountableTopology ι]
+
+private lemma StieltjesFunction.measurable_finite_measure {f : Ω → StieltjesFunction ι}
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/MonotoneProcess.lean]:
```suggestion
private lemma StieltjesFunction.measurable_measure_of_isFiniteMeasure {f : Ω → StieltjesFunction ι}
```

File: BrownianMotion/StochasticIntegral/MonotoneProcess.lean [hunk 7]
```diff
@@ -0,0 +1,332 @@
...
+      exact borel_eq_generateFrom_Ioc ι
+  · simp [Measure.eq_zero_of_isEmpty]
+
+instance {X : Type*} [TopologicalSpace X] [Preorder X] [CompactIccSpace X] {a b : X} :
+    CompactIccSpace (Ioc a b) where
+  isCompact_Icc := by
+    intro c d
+    exact IsEmbedding.subtypeVal.isCompact_iff.2 (by simp [isCompact_Icc])
+
+lemma StieltjesFunction.restrict_measure_Ioc (f : StieltjesFunction ι) (hab : a < b) :
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/MonotoneProcess.lean]:
```suggestion
lemma StieltjesFunction.measure_restrict_Ioc (f : StieltjesFunction ι) (hab : a < b) :
```

File: BrownianMotion/StochasticIntegral/MonotoneProcess.lean [hunk 8]
```diff
@@ -0,0 +1,332 @@
...
+
+instance StieltjesFunction.isFiniteMeasure_restrict_Ioc {f : StieltjesFunction ι} :
+    IsFiniteMeasure (f.restrict (Ioc a b)).measure where
+  measure_univ_lt_top := by
+    by_cases! hab : a < b
+    · simp [f.restrict_measure_Ioc hab]
+    · have : (univ : Set (Ioc a b)) = ∅ := by grind
+      simp [this, measure_empty]
+
+lemma StieltjesFunction.restrict_eq_measure (f : StieltjesFunction ι) (a b : ι) :
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/MonotoneProcess.lean]:
```suggestion
lemma StieltjesFunction.measure_restrict_eq_comap (f : StieltjesFunction ι) (a b : ι) :
```
Not 100% sure about that name

File: BrownianMotion/StochasticIntegral/MonotoneProcess.lean [hunk 9]
```diff
@@ -0,0 +1,332 @@
...
+    <;> by_cases! hvu : v n < u n
+    · simp [fun ω => ((f ω).restrict_Ioc_iInf hvu).symm, hf (v n)]
+    · simp_all
+    · simp [fun ω => ((f ω).restrict_Ioc_iSup hvu).symm, hf (u n)]
+    · simp_all
+  · simp [Measure.eq_zero_of_isEmpty]
+
+/-- If `X : ι → Ω → ℝ` is a right continuous and monotone process, then for each `ω : Ω`, `X · ω` is
+a `StieltjesFunction` defined on `ι`. -/
+def StieltjesFunction.rightCont_mono (hcont : ∀ ω, RightContinuous (X · ω))
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/MonotoneProcess.lean]:
```suggestion
def StieltjesFunction.rightContMono (hcont : ∀ ω, RightContinuous (X · ω))
```
This is a def, so should be called `rightContMono` rather than `rightCont_mono`. But I'm also not sure that this name is understandable. I don't have a good suggestion right now. I'll think about it.

Same remark about `StieltjesFunction.kernel_of_rightCont_adapted_mono`.

File: BrownianMotion/StochasticIntegral/MonotoneProcess.lean [hunk 10]
```diff
@@ -0,0 +1,332 @@
...
+end StieltjesKernel
+
+namespace MeasureTheory.VectorMeasure
+
+variable {ι : Type*} [MeasurableSpace ι]
+variable [AddCommMonoid E] [TopologicalSpace E] [MeasurableSpace E] [BorelSpace E]
+
+/-- Measurability structure on `VectorMeasure`. -/
+instance instMeasurableSpace :
+    MeasurableSpace (VectorMeasure ι E) :=
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/MonotoneProcess.lean]:
```suggestion
instance : MeasurableSpace (VectorMeasure ι E) :=
```
You don't need to name instances

**Comment by RemyDegenne** [comment]
I added your new file to the imports of BrownianMotion.lean with `lake exe mk_all --module`, but now the build fails because of a name clash. Could you fix that?

**Comment by CoolRmal** [comment]
I renamed `StieltjesFunction.measurable_measure` to `StieltjesFunction.measurable_measure'` to fix this error. I'll upstream this result to Mathlib.
